US05747525
Synthesis of 5-(2,2-diethoxycarbonyl-ethenyl)-2,2'-bithiophene
3.89 g of 5-formyl-2,2'-bithiophene, 3.50 g of diethyl-malonate, 15 ml of pyridine and 2.4 ml of piperidine were heated at 80° C. for 3 hours. After cooling, the mixture was acidified by diluted HCl, extracted with ethyl acetate and purified by column chromatography. The orange crystal product (4.39 g) was obtained by recrystallization from ethanol. The melting point of the product was 60° C.

reactant | 5-formyl-2,2'-bithiophene | 3.89 g | C(=O)C1=CC=C(S1)C=1SC=CC1 | C9H6OS2
reactant | diethyl-malonate | 3.50 g | C(C)C(C(=O)[O-])(C(=O)[O-])CC
reactant | piperidine | 2.4 ml | N1CCCCC1 | C5H11N
reactant | HCl | Cl | ClH
reactant | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
product | 5-(2,2-diethoxycarbonyl-ethenyl)-2,2'-bithiophene | 4.39 g | C(C)OC(=O)C(=CC1=CC=C(S1)C=1SC=CC1)C(=O)OCC | C16H16O4S2
